US09023840B2
Step 2: tert-butyl 3-(cyanomethyl)-3-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidine-1-carboxylate
A mixture of 4-bromo-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine (1.0 g, 3.0 mmol), tert-butyl 3-(cyanomethyl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]azetidine-1-carboxylate (1.2 g, 3.0 mmol), tetrakis(triphenylphosphine)palladium(0) (200 mg, 0.2 mmol) and cesium carbonate (3.0 g, 9.2 mmol) in 1,4-dioxane (6 mL) and water (0.9 mL) was degassed and sealed. It was stirred at 90° C. for 2 h. After cooling it was concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with ethyl acetate in hexane (0-50%) to afford the desired product (1.6 g). LCMS (M+H)+: m/z=509.3.

reactant | 4-bromo-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine | 3.0 mmol, 1.0 g | BrC1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C13H19BrN2OSi
reactant | tert-butyl 3-(cyanomethyl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]azetidine-1-carboxylate | 3.0 mmol, 1.2 g | C(#N)CC1(CN(C1)C(=O)OC(C)(C)C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C19H29BN4O4
reactant | cesium carbonate | 9.2 mmol, 3.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.9 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.2 mmol, 200 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 3-(cyanomethyl)-3-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidine-1-carboxylate | 1.6 g | C(#N)CC1(CN(C1)C(=O)OC(C)(C)C)N1N=CC(=C1)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C26H36N6O3Si
